US06235778B1
a) 5-Methoxy-3-[2-(methylsulfonyl)phenylsulfonyloxy]phenol
The title compound was prepared in 80% yield from 2-methylsulfonylbenzenesulfonyl chloride and 5-methoxyresorcinol in a manner analogous to step a of Example 1. 1H-NMR (300 MHz, CDCl3) δ8.42 (d, J=7.8 Hz, 1H), 8.13 (d, J=7.8 Hz, 1H), 7.88 (t, J=7.8 Hz, 1H), 7.75 (t, J=7.7 Hz, 1H), 6.36 (s, 1H), 6.31 (s, 1H), 6.28 (s, 1H), 3.68 (s, 3H), 3.45 (s, 3H).

reactant | 2-methylsulfonylbenzenesulfonyl chloride | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)Cl | C7H7ClO4S2
reactant | 5-methoxyresorcinol | COC=1C=C(C=C(O)C1)O | C7H8O3
product | 5-Methoxy-3-[2-(methylsulfonyl)phenylsulfonyloxy]phenol | 80% yield | COC=1C=C(C=C(C1)O)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C14H14O7S2
